US06982348B2
3) 6-methyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-ol
To a solution of 6-methyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one (24.93 g, 143.1 mmol) in methanol (150 ml) was added sodium borohydride (5.41 g, 143 mmol) by small portions under ice-cooling and the mixture was stirred at room temperature for 1 hr. The solvent of the reaction solution was evaporated under reduced pressure, water was added, and the mixture was extracted twice with ethyl acetate. The collected organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to give the objective substance.

reactant | 6-methyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one | 143.1 mmol, 24.93 g | CC1C(C2=C(CCC1)C=CC=C2)=O | C12H14O
reactant | sodium borohydride | 143 mmol, 5.41 g | [BH4-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 6-methyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-ol | CC1C(C2=C(CCC1)C=CC=C2)O | C12H16O
